US05929094
c) 2-Bromo-4-(5-(trifluoromethyl)tetrazol-1-yl)anisole
A mixture of 705 mg (2.4 mmol) of 2-bromo-4-(trifluoroacetamido)anisole and 625 mg (2.4 mmol) of triphenylphosphine in 25 mL of CC14 was heated at reflux. After 4 h, a second 625 mg portion of triphenylphosphine was added and heating was continued for 16 h. The reaction mixture was cooled and concentrated in vacuo. The residue was dissolved in 15 mL of DMF, treated with 650 mg (10.0 mmol) of NaN3 and stirred at rt. After 1.5 h, the reaction mixture was concentrated in vacuo and the residue was partitioned between 200 mL of ether and 100 mL of H2O. The layers were separated; the organic layer was washed with 2×100 mL of H2O, dried over MgSO4 and concentrated in vacuo. Flash chromatography on 40 g of silica gel using 4:1 v/v hexanes/ether as the eluant afforded 700 mg (91%) of the title compound as an oil. 1H NMR (500 MHz, CDCl3): δ 4.01 (s, 3H), 7.07 (d, J=8.5, 1H), 7.43 (dd, J=8.5, 2.5), 7.71 (d, J=2.5, 1H).

reactant | 2-bromo-4-(trifluoroacetamido)anisole | 2.4 mmol, 705 mg | BrC1=C(C=CC(=C1)NC(C(F)(F)F)=O)OC | C9H7BrF3NO2
reactant | triphenylphosphine | 2.4 mmol, 625 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | NaN3 | 10.0 mmol, 650 mg | [N-]=[N+]=[N-].[Na+]
product | 2-Bromo-4-(5-(trifluoromethyl)tetrazol-1-yl)anisole | 700 mg, 91% | BrC1=C(C=CC(=C1)N1N=NN=C1C(F)(F)F)OC | C9H6BrF3N4O
